US04698337
A solution of 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.6 g.), conc. hydrochloric acid (2 g.) and methanol (40 ml.) was stirred at room temperature for 3 hours. After evaporating the solvent in vacuo, methanol was added to the residue and mixture was evaporated in vacuo again. The residue was dissolved in water (30 ml.) and adjusted to pH 3.5 with a saturated sodium bicarbonate aqueous solution under ice-cooling. The solution was subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" [trademark, manufactured by Mitsubishi Chemical Industries Ltd.], and eluted with 30% aqueous isopropyl alcohol. The eluate was concentrated in vacuo and the residue was lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 0.7 g.)

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.6 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C23H28N10O8S3
reactant | hydrochloric acid | 2 g | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.7 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCCN | C17H20N10O5S3
